US05763458
Proceeding as in Example 4, Step (c), but replacing 1-(4-acetylamino-5-chloro-2-methoxyphenyl)-5-chloropentan-1-one with 1-[4-acetylamino-5-chloro-2-(3,5-dimethoxybenzyloxy) phenyl]-5-chloropentan-1-one and piperidine with 4-(methylsulfonyl)aminomethylpiperidine, gave 1-[4-amino-5-chloro-2-(3,5-dimethoxybenzyloxy)phenyl]-5-[4-(methylsulfonyl) aminomethyl-piperidin-1-yl]pentan-1-one hydrochloride, m.p. 211°-213° C.

reactant | 1-[4-acetylamino-5-chloro-2-(3,5-dimethoxybenzyloxy) phenyl]-5-chloropentan-1-one | C(C)(=O)NC1=CC(=C(C=C1Cl)C(CCCCCl)=O)OCC1=CC(=CC(=C1)OC)OC | C22H25Cl2NO5
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 4-(methylsulfonyl)aminomethylpiperidine | CS(=O)(=O)NCC1CCNCC1 | C7H16N2O2S
product | 1-[4-amino-5-chloro-2-(3,5-dimethoxybenzyloxy)phenyl]-5-[4-(methylsulfonyl) aminomethyl-piperidin-1-yl]pentan-1-one hydrochloride | Cl.NC1=CC(=C(C=C1Cl)C(CCCCN1CCC(CC1)CNS(=O)(=O)C)=O)OCC1=CC(=CC(=C1)OC)OC | InChI=1S/C27H38ClN3O6S.ClH/c1-35-21-12-20(13-22(14-21)36-2)18-37-27-16-25(29)24(28)15-23(27)26(32)6-4-5-9-31-10-7-19(8-11-31)17-30-38(3,33)34;/h12-16,19,30H,4-11,17-18,29H2,1-3H3;1H
